US04226866
Aqueous sodium hydroxide (35 ml. of a 2.5 N solution) is added dropwise over 30 minutes to a stirred solution of 1-acetoxy-3-carbamoyloxy-2-propanone (14.9 g., 0.085 g.) in methanol (10 ml.). The methanol is evaporated under reduced pressure and the aqueous residue extracted with chloroform (3×25 ml.). The combined extracts are dried, and the solvent is removed in vacuo to afford 1-hydroxy-3-carbamoyloxy-2-propanone.

reactant | sodium hydroxide | [OH-].[Na+]
reactant | 1-acetoxy-3-carbamoyloxy-2-propanone | 14.9 g | C(C)(=O)OCC(COC(N)=O)=O | C6H9NO5
solvent | methanol | 10 ml | CO | CH4O
product | 1-hydroxy-3-carbamoyloxy-2-propanone | OCC(COC(N)=O)=O | C4H7NO4
